US05254552
N-[2-[4-(2-Methoxyphenyl)-1-piperazinyl]ethyl]tricyclo[3.3.1.13,7 ]decane-1-carboxamide Dihydrochloride Three-Quarters Hydrate
To a stirred solution of [4-(2-methoxyphenyl)piperazino]ethylamine (2.53 g, 0.01 mol) in 50 mL of methylene chloride, adamantane-1-carboxylic acid chloride (3 g, 0.02 mol) and triethylamine (2 g, 0.02 mol) were added. Stirring was continued at room temperature overnight. The methylene chloride solution was washed with water, dried over anhydrous sodium sulfate and evaporated under reduced pressure. The remaining residue was subjected to preparative HPLC. In repeated preparations, the residue was dissolved in ethyl acetate (10 mL) and subjected to flash chromatography using a 9 inch column of silica gel and ethyl acetate as the eluent. The title compound (TLC Rf =0.65 in 30% methanol/ethyl acetate system) was separated and converted to the dihydrochloride three-quarters hydrate salt with ethanolic HCl (1.6 g), m.p. 206°-212° C.

reactant | [4-(2-methoxyphenyl)piperazino]ethylamine | 0.01 mol, 2.53 g | COC1=C(C=CC=C1)N1CCN(CC1)CCN | C13H21N3O
reactant | adamantane-1-carboxylic acid chloride | 0.02 mol, 3 g | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
reactant | triethylamine | 0.02 mol, 2 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | N-[2-[4-(2-Methoxyphenyl)-1-piperazinyl]ethyl]tricyclo[3.3.1.13,7 ]decane-1-carboxamide Dihydrochloride | Cl.Cl.COC1=C(C=CC=C1)N1CCN(CC1)CCNC(=O)C12CC3CC(CC(C1)C3)C2 | InChI=1S/C24H35N3O2.2ClH/c1-29-22-5-3-2-4-21(22)27-10-8-26(9-11-27)7-6-25-23(28)24-15-18-12-19(16-24)14-20(13-18)17-24;;/h2-5,18-20H,6-17H2,1H3,(H,25,28);2*1H
